US06482819B1
4-(Hydroxymethyl)-8-chloro-1-(4-nitrophenyl)-5H-2,3-benzodiazepine
2.15 g (6.6 mM) of 4-formyl-8-chloro-1-(4-nitrophenyl)-5H-2,3-benzodiazepine [prepared according to Step a)] were dissolved in 88 ml of a mixture of tetrahydrofuran and water (1:1), then under ice chilling 0.12 g (3.3 mM) of sodium borohydride was added portion-wise. The reaction mixture was stirred at 25° C. for 40 minutes then it was diluted with 90 ml of water. The precipitated crystals were filtered and purified on a Kieselgel column using a mixture of benzene and ethyl acetate (1:1) as eluant.

reactant | 4-formyl-8-chloro-1-(4-nitrophenyl)-5H-2,3-benzodiazepine | 6.6 mM, 2.15 g | C(=O)C1=NN=C(C2=C(C1)C=CC(=C2)Cl)C2=CC=C(C=C2)[N+](=O)[O-] | C16H10ClN3O3
reactant | sodium borohydride | [BH4-].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | water | 90 ml | O | H2O
product | 4-(Hydroxymethyl)-8-chloro-1-(4-nitrophenyl)-5H-2,3-benzodiazepine | OCC1=NN=C(C2=C(C1)C=CC(=C2)Cl)C2=CC=C(C=C2)[N+](=O)[O-] | C16H12ClN3O3
